US09403847B2
Step F: 2-(1-Bromoethyl)-3-(3,5-difluorophenyl)pyrazolo[1,5-a]pyridine
3-(3,5-Difluorophenyl)-2-ethylpyrazolo[1,5-a]pyridine (0.48 g, 1.8 mmol), N-bromosuccinimide (0.55 g, 3.1 mmol) and benzoyl peroxide (50 mg, 0.2 mmol) were stirred in carbon tetrachloride (20 mL). The mixture was heated to reflux for 2 hours. After removal of the solvent in vacuo, the residue was dissolved in dichloromethane, washed with water, saturated aqueous sodium sulfite, aqueous sodium bicarbonate and brine. The extracts were dried over sodium sulfate, filtered and concentrated to give the desired compound (0.63 g, 100%). LCMS for C15H12BrF2N2 (M+H)+: m/z=336.8, 338.8. 1H NMR (300 MHz, DMSO-d6): δ 8.78 (m, 1 H), 7.70 (m, 1 H), 7.30 (m, 4 H), 7.02 (m, 1 H), 5.63 (m, 1 H), 2.17 (m, 3 H).

reactant | 3-(3,5-Difluorophenyl)-2-ethylpyrazolo[1,5-a]pyridine | 1.8 mmol, 0.48 g | FC=1C=C(C=C(C1)F)C=1C(=NN2C1C=CC=C2)CC | C15H12F2N2
reactant | N-bromosuccinimide | 3.1 mmol, 0.55 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.2 mmol, 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-Bromoethyl)-3-(3,5-difluorophenyl)pyrazolo[1,5-a]pyridine | 0.63 g, 100% | BrC(C)C1=NN2C(C=CC=C2)=C1C1=CC(=CC(=C1)F)F | C15H11BrF2N2
